US08404679B2
N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(1-isopropyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (50 mg, 0.095 mmol) in dichloromethane (1 mL) was added under an atmosphere of nitrogen acetone (70 μl, 0.95 mmol) and sodium triacetoxyborohydride (81 mg, 0.38 mmol). The reaction mixture was stirred for 18 h at ambient temperature before it was treated with an aqueous solution of sodium carbonate (1 M, 10 ml) and stirred for 1 h at this temperature. It was diluted with ethyl acetate (15 mL). The aqueous layer was extracted with ethyl acetate (15 mL) and the organic layers were washed with brine (15 mL). The combined organic layers were dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, dichloromethane:methanol=100:0 to 70:30) afforded the title compound (40 mg, 73%) as a light brown oil. MS m/e: 566.3 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.095 mmol, 50 mg | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H29ClF3N3O3
reactant | sodium triacetoxyborohydride | 0.38 mmol, 81 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | 1 M, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | N-[(3RS,4SR)-4-(4-Chloro-phenyl)-1-(1-isopropyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 40 mg, 73% | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)C(C)C)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C29H35ClF3N3O3
